US05650410
According to the same manner as that described in Example 56, 2-chloromethyl-4- (3,4-dimethoxyphenyl ) -6,7-dimethoxyquinazoline was reacted with aniline to give 2-anilinomethyl-4-(3,4-dimethoxyphenyl)-6,7-dimethoxyquinazoline. This compound was recrystallized from ethanol. Colorless prisms, mp. 199°-200° C.

reactant | 2-chloromethyl-4- (3,4-dimethoxyphenyl ) -6,7-dimethoxyquinazoline | ClCC1=NC2=CC(=C(C=C2C(=N1)C1=CC(=C(C=C1)OC)OC)OC)OC | C19H19ClN2O4
reactant | aniline | NC1=CC=CC=C1 | C6H7N
product | 2-anilinomethyl-4-(3,4-dimethoxyphenyl)-6,7-dimethoxyquinazoline | N(C1=CC=CC=C1)CC1=NC2=CC(=C(C=C2C(=N1)C1=CC(=C(C=C1)OC)OC)OC)OC | C25H25N3O4
